US04835288
Sodium acetate (41.0 g, 500 mmol) was added to the 2-bromoacetaaldehyde solution, and stirred for 5 minutes, at which point the solution had a pH of 6. The flask was placed in a cool tap water bath and dimethyl 3-(2-bromoethylamino)-2-pentenedioate (20.0 g, 71 mmol) was added, followed by isopropanol (40 mL), and the solution was stirred at room temperature (25° C.). Within about 35 minutes, all the solids had dissolved, and a precipitate started forming within 90 minutes. Stirring was continued at room temperature for 20 hours, and the solution then cooled to 0° C. and stirred at that temperature for 1 hour, then filtered through a coarse frit. The precipitate was washed with ice-cold water (400 mL) and ice-cold isopropanol (150 mL) and dried, to give 15.7 g (72% yield) of crude methyl N-(2-bromoethyl)-3-methoxycarbonyl-2-pyrroleacetate as a light tan solid, m.p. 129°-130.5° C., NMR (CDCl3): δ:

reactant | Sodium acetate | 500 mmol, 41.0 g | C(C)(=O)[O-].[Na+]
reactant | dimethyl 3-(2-bromoethylamino)-2-pentenedioate | 71 mmol, 20.0 g | BrCCNC(=CC(=O)OC)CC(=O)OC | C9H14BrNO4
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | methyl N-(2-bromoethyl)-3-methoxycarbonyl-2-pyrroleacetate | 15.7 g, 72% yield | BrCCN1C(=C(C=C1)C(=O)OC)CC(=O)OC | C11H14BrNO4
